### PR TITLE
[Merged by Bors] - feat: `empty_ne_singleton`

### PR DESCRIPTION
**Pull request by vihdzp**
This slightly strengthens our simp set.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by plp127 — APPROVED** [review]

File: Mathlib/Data/Set/Insert.lean [hunk 1]
```diff
@@ -285,7 +289,7 @@ theorem Nonempty.subset_singleton_iff (h : s.Nonempty) : s ⊆ {a} ↔ s = {a} :
 theorem ssubset_singleton_iff {s : Set α} {x : α} : s ⊂ {x} ↔ s = ∅ := by
   rw [ssubset_iff_subset_ne, subset_singleton_iff_eq, or_and_right, and_not_self_iff, or_false,
     and_iff_left_iff_imp]
-  exact fun h => h ▸ (singleton_ne_empty _).symm
+  exact fun h => h ▸ empty_ne_singleton _
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Insert.lean:292]: Fwiw, `grind` seems able to do the whole proof here

**Review by Ruben-VandeVelde — APPROVED** [review]
It seems okay, but maybe not *that* useful?

maintainer merge?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
